US04568695
2-Amino-3-[(4-chlorophenyl)hydroxymethyl]benzeneethanol
To a slurry of 5.5 g (0.145 mole) of lithium aluminum hydride in 50 ml of dry tetrahydrofuran was added dropwise a solution of 21.9 g (0.069 mole) of 2-amino-3-(4-chlorobenzoyl)benzeneacetic acid, ethyl ester in 120 ml of dry tetrahydrofuran. After the addition was complete, the mixture was heated at reflux under a nitrogen atmosphere for 2.5 hours. The mixture was cooled and treated successively with 5.5 ml of water, 5.5 ml of 5% sodium hydroxide and 16.5 ml of water. The mixture was filtered through celite and the filter cake was washed several times with tetrahydrofuran. The combined filtrates were concentrated to give a solid residue. This residue was recrystallized from ethyl acetate to yield 8.6 g (45%) of the titled compound as fluffy white needles, m.p. 132°-134° C.

reactant | lithium aluminum hydride | 0.145 mole, 5.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-3-(4-chlorobenzoyl)benzeneacetic acid, ethyl ester | 0.069 mole, 21.9 g | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)OCC | C17H16ClNO3
reactant | water | 5.5 ml | O | H2O
reactant | sodium hydroxide | 5.5 ml | [OH-].[Na+]
reactant | water | 16.5 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-Amino-3-[(4-chlorophenyl)hydroxymethyl]benzeneethanol | 8.6 g, 45% | NC1=C(C=CC=C1C(O)C1=CC=C(C=C1)Cl)CCO | C15H16ClNO2
